US06046210
7-Methoxy-N-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline.
Sodium triacetoxyborohydride (4.66 g, 22 mmol) was added to a stirred mixture of 4-(4-phenylbenzoylamino)butyraldehyde (3.92 g, 15 mmol) and 7-methoxy-1,2,3,4-tetrahydroisoquinoline [Daniel J. Sall et al., J. Med. Chem., 1987, 30, 2208] (2.40 g, 14.7 mmol) in 1,2-dichloroethane (200 ml) at room temperature. After stirring for 16 h, dichloromethane (100 ml) was added and the mixture was then washed with saturated aqueous K2CO3 (2×100 ml) and brine (100 ml). Drying (Na2SO 4) and evaporation in vacuo afforded a viscous oil which was chromatographed on silica gel, eluting with ethyl acetate, to give the title compound as a pale pink solid (5.04 g, 83%).

reactant | Sodium triacetoxyborohydride | 22 mmol, 4.66 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-(4-phenylbenzoylamino)butyraldehyde | 15 mmol, 3.92 g | C1(=CC=CC=C1)C1=CC=C(C(=O)NCCCC=O)C=C1 | C17H17NO2
reactant | 7-methoxy-1,2,3,4-tetrahydroisoquinoline | 14.7 mmol, 2.40 g | COC1=CC=C2CCNCC2=C1 | C10H13NO
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
product | 7-Methoxy-N-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline | 5.04 g, 83% | COC1=CC=C2CCN(CC2=C1)CCCCNC(C1=CC=C(C=C1)C1=CC=CC=C1)=O | C27H30N2O2
